US04574139
50 g of H(CF2)4CH2OH was dissolved in 100 ml of dimethyl sulfoxide (DMSO). 22.4 g of sodium hydroxide was added with stirring, and then 33 g of allyl chloride was dded slowly at room temperature over 2 hours. Stirring was continued for 5 hours. After filtration of precipitates, the solution was heated on a water bath to remove unreacted allyl chloride. The solution was poured into a large amount of water to separate H(CF2)4CH2OCH2 --CH=CH2. A small quantity of BPO of the order of mg was added to H(CF2)4CH2OCH2 --CH=CH2, and then thiolacetic acid was added with stirring at room temperature over 2 hours. Unreacted thiolacetic acid was removed under reduced pressure. 100 cc of methanol and 10 g of sodium hydroxide were added, and reaction was carried out at 60° C. for 3 hours. After cooling to room temperature, the reaction product was poured into a large amount of water to give crude H(CF2)4CH2OCH2CH2CH2SH. Upon distillation, there was obtained a purified product having bp. 57° C./3 mmHg. The structure of this compound was confirmed by 1H--NMR.

reactant | H(CF2)4CH2OH | 50 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)CO | C5H4F8O
reactant | sodium hydroxide | 22.4 g | [OH-].[Na+]
reactant | allyl chloride | 33 g | C(C=C)Cl | C3H5Cl
reactant | water | O | H2O
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | H(CF2)4CH2OCH2CH2CH2SH | C(F)(F)C(F)(F)C(F)(F)C(F)(F)COCCCS | C8H10F8OS
